US08530648B2
HCl (4M in dioxane, 5 ml) was added to a solution of tert-butyl 2-(naphthalen-1-ylmethyl)-1-oxo-2,9-diazaspiro[5.5]undecane-9-carboxylate (377 mg, 0.9 mmol) in CH2Cl2 (2 ml) and the mixture was stirred at rt for 18 h. The volatiles were evaporated to afford 270 mg (87%) of crude 2-(naphthalen-1-ylmethyl)-2,9-diazaspiro[5.5]undecan-1-one hydrochloride, which was used without further purification.

reactant | HCl | 4M, 5 ml | Cl | ClH
reactant | tert-butyl 2-(naphthalen-1-ylmethyl)-1-oxo-2,9-diazaspiro[5.5]undecane-9-carboxylate | 0.9 mmol, 377 mg | C1(=CC=CC2=CC=CC=C12)CN1C(C2(CCC1)CCN(CC2)C(=O)OC(C)(C)C)=O | C25H32N2O3
solvent | CH2Cl2 | 2 ml | C(Cl)Cl | CH2Cl2
product | 2-(naphthalen-1-ylmethyl)-2,9-diazaspiro[5.5]undecan-1-one hydrochloride | 270 mg, 87% | Cl.C1(=CC=CC2=CC=CC=C12)CN1C(C2(CCC1)CCNCC2)=O | InChI=1S/C20H24N2O.ClH/c23-19-20(10-12-21-13-11-20)9-4-14-22(19)15-17-7-3-6-16-5-1-2-8-18(16)17;/h1-3,5-8,21H,4,9-15H2;1H
